US05145843
8-chloro-4-(2-chlorophenoxy)quinoline
A mixture of 2.0 g of 4,8-dichloroquinoline and 2.6 g of 2-chlorophenol was heated to 160° C. and stirred. Progress of the reaction was monitored by TLC. When no 4,8-dichloroquinoline remained, the reaction mixture was diluted with ethyl acetate, and washed with base to remove most of the excess phenol. To remove phenol remaining after washing, the product was purified using HPLC. Fractions containing product were combined, and solvent was removed using reduced pressure. The oily product crystallized. Yield: 1.36 g (46%). M.P. 56°-58° C.

reactant | 4,8-dichloroquinoline | 2.0 g | ClC1=CC=NC2=C(C=CC=C12)Cl | C9H5Cl2N
reactant | 2-chlorophenol | 2.6 g | ClC1=C(C=CC=C1)O | C6H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-chloro-4-(2-chlorophenoxy)quinoline | ClC=1C=CC=C2C(=CC=NC12)OC1=C(C=CC=C1)Cl | C15H9Cl2NO
